US05234931
a. 3-(1H-Indazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane
A mixture of (2-fluorophenyl)(8-methyl-8-azabicyclo-[3.2.1]octan-3-yl) methanone (24.6 g), hydrazine hydrate (14.4 ml), and ethanol (250 ml) was heated to reflux for four hours. The reaction was cooled to room temperature and concentrated to an oil. This residue was dissolved in dimethylformamide (DMF) (250 ml). Potassium carbonate (28 g) was added to the mixture which was subsequently heated at reflux for 2 days. The reaction mixture was cooled and filtered and the DMF was removed in vacuo. The residue was dissolved in ethanol and 5.2 g of 3-(1H-indazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane precipitated from solution, as a powder, m.p. 191°-192° C.

reactant | (2-fluorophenyl)(8-methyl-8-azabicyclo-[3.2.1]octan-3-yl) methanone | 24.6 g | FC1=C(C=CC=C1)C(=O)C1CC2CCC(C1)N2C | C15H18FNO
reactant | hydrazine hydrate | 14.4 ml | O.NN
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(1H-Indazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane | N1N=C(C2=CC=CC=C12)C1CC2CCC(C1)N2C | C15H19N3
